US06022880
7-Chloro-3-(4-pyridinyl)aminobenzo[b]thiophene hydrochloride
To a solution of 7-chloro-3-aminobenzo[b]thiophene (47.82 g, 325 mmole) in NMP (300 mL) was added 4-chloropyridine hydrochloride (50.78 g) and the reaction mixture was placed in a 130° C. oil bath. After stirring for 5 minutes, the reaction mixture was cooled, diluted with a saturated solution of NaHCO3, and extracted with ethyl acetate. The biphasic mixture was thick with precipitates which were removed by filtration over Celite. The organic layer was separated, washed with water, dried (MgSO4), and concentrated. Trituration of the resulting solid with diethyl ether/pentane yielded 28.95 g of product as a green solid. TLC revealed that the precipitates filtered in the initial extraction contained product. Flash chromatography (silica gel) and trituration of the resulting solid with diethyl ether/pentane yielded 11.32 g of an off-white solid. A 2.0 g portion of this material was dissolved in 40 mL of hot methanol allowed to stand for a half hour, filtered to remove orange precipitates. Ethereal hydrogen chloride was added to the filtrate. The hydrochloride salt was then filtered, washed with diethyl ether, and dried under high vacuum, P2O5, and refluxing xylenes to yield 1.89 g of a beige crystalline solid, mp 305° C. (dec.).

reactant | 7-chloro-3-aminobenzo[b]thiophene | 325 mmole, 47.82 g | ClC1=CC=CC2=C1SC=C2N | C8H6ClNS
reactant | 4-chloropyridine hydrochloride | 50.78 g | Cl.ClC1=CC=NC=C1
solvent | NMP | 300 mL | CN1CCCC1=O | C5H9NO
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 7-Chloro-3-(4-pyridinyl)aminobenzo[b]thiophene hydrochloride | 28.95 g | Cl.ClC1=CC=CC2=C1SC=C2NC2=CC=NC=C2 | InChI=1S/C13H9ClN2S.ClH/c14-11-3-1-2-10-12(8-17-13(10)11)16-9-4-6-15-7-5-9;/h1-8H,(H,15,16);1H
